US07727988B2
1-(4-Hydroxy-butyl)-5-trifluoromethyl-1H-pyrimidine-2,4-dione (Prep23)
A solution of 1-[4-(tert-butyl-dimethyl-silanyloxy)-butyl]-5-trifluoromethyl-1H-pyrimidine-2,4-dione (Prep22, 260 mg, 0.71 mmol) in DCM (15 mL) was cooled at 0° C. and then TFA (820 μl, 1.1 mmol) was added. The mixture was stirred for 1 hour at room temperature and the solvent was evaporated. The crude was purified by flash chromatography with ethyl acetate-petroleum ether (7-3) to afford the title compound (132 mg, 74% yield).

reactant | 1-[4-(tert-butyl-dimethyl-silanyloxy)-butyl]-5-trifluoromethyl-1H-pyrimidine-2,4-dione | 0.71 mmol, 260 mg | C(C)(C)(C)[Si](OCCCCN1C(NC(C(=C1)C(F)(F)F)=O)=O)(C)C | C15H25F3N2O3Si
reactant | TFA | 1.1 mmol, 820 μl | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Hydroxy-butyl)-5-trifluoromethyl-1H-pyrimidine-2,4-dione | 132 mg, 74% yield | OCCCCN1C(NC(C(=C1)C(F)(F)F)=O)=O | C9H11F3N2O3
